US03984397
To a solution of 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylate (517 mg.) in a mixture of dimethylformamide (3 ml.) and acetic acid (1 ml.) was added zinc powder (0.7 g.) under ice-cooling. After stirring for 1 hour at the same temperature, zinc powder was filtered off and washed twice with dimethylformamide (2 ml.). The filtrate was combined with the washings and the combined solution was poured into a mixed cooled solution of ethyl acetate and water, extracted with ethyl acetate, after which the extract was washed with water and dried over magnesium sulfate. Crystalline material (390 mg.) obtained by distilling off the solvent under reduced pressure was washed with ether and dried to give colorless crystals of 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylic acid (310 mg.) mp 112° to 118°C (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylate | 517 mg | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(CC3=CC=CC=C3)=O)=O | C18H17Cl3N2O4S
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.7 g | [Zn] | Zn
product | 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylic acid | 310 mg | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(CC3=CC=CC=C3)=O)=O | C16H16N2O4S
